### PR TITLE
Rework Formalization closer to Lecture Material

### PR DESCRIPTION
**Pull request by anna-dolma**
This PR is a major rewrite of some existing results. The goal is to have definitions, theorems, and proofs closer to the lecture material.
The rewrite does not include all the previously included definitions and results. For example, grammars and Loop programs are missing.
What is included are formalizations of lectures 1, 3, 4 and parts of exercise 1 and 2.

All the code from before the rewrite has been moved to the library `FormaleSystemInLeanLegacy`, which is still part of this repo.

### CODE REVIEW

File: FormaleSystemeInLeanLegacy/Chomsky/Regular/TotalDFA.lean [hunk 1]
```diff
@@ -112,13 +112,13 @@ theorem totalDFA_lang_eq:
...
+    simp [Subtype.ext_iff];
     rw [← totalDFA_del_star_eq]
     rw [And.comm];
 
   constructor <;> intro ⟨x, l, r⟩ <;> exists x
   . simp [r, Option.mem_def.mp l]; rfl
-  . simp [r]; exact l.symm
-
+  . simp [r]; exact l.symm -/
+  sorry
```
Comment (monsterkrampe) [inline FormaleSystemeInLeanLegacy/Chomsky/Regular/TotalDFA.lean]: This still needs to be fixed. (Maybe I can take care of that.)

File: FormaleSystemeInLean/Fintype.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
...
+  elems : List α
+  complete : ∀ a : α, a ∈ elems
+
+/--
+Subtype of α containing elements of l
+-/
+def subtype_of_list (l : List α) := { x : α // x ∈ l }
+
+/-- A subtype of α created from the list l is finite. -/
+instance (l : List α) : Fintype (subtype_of_list l) where
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Fintype.lean]: Maybe this should be `{l : List α}`.

File: FormaleSystemeInLean/Fintype.lean [hunk 3]
```diff
@@ -0,0 +1,48 @@
...
+    . rw [← Ne.eq_1, Option.ne_none_iff_exists] at hq
+      rcases hq with ⟨r, r_eq⟩
+      apply Or.inl
+      exists r
+      constructor
+      . exact T.complete r
+      . exact r_eq
+
+/-- If α is a finite type with decidable equality we can give a BEq instance for the subtype of α created from list l as follows. -/
+instance [Fintype α] [DecidableEq α] (l : List α) : BEq (subtype_of_list l) where
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Fintype.lean]: Where is this used? I would assume that one can even get `DecidableEq` for the subtype and I would even assume that this is inferred automatically but I'm not entirely sure. Also `Fintype` should not be necessary. Or am I missing something?

File: FormaleSystemeInLean/FintypeSetDecidableEq.lean [hunk 4]
```diff
@@ -0,0 +1,88 @@
...
+  . intro xy_eq
+    intro x
+    rw [← X_eq, ← Y_eq] at xy_eq
+    grind
+
+/--
+If α is a finite type and membership is decidable for every Set α then two sets X and Y are equal iff their corresponding lists have the same members.
+We need to assume (DecidablePred S) for every (S : Set α) in order to obtain a list with the same elements as S by filtering Fintype.elems for members of S.
+-/
+theorem set_eq_iff_filter_has_same_members (α : Type u) (h : ∀ (S : Set α), DecidablePred S) (T : Fintype α) (X Y : Set α) : X = Y ↔ (∀ a, a ∈ T.elems.filter ( · ∈ X) ↔ a ∈ T.elems.filter ( · ∈ Y)) := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/FintypeSetDecidableEq.lean]: `∀ (S : Set α), DecidablePred S` is too strong of an assumption. Is it enough to just demand `DecidablePred X` and `DecidablePred Y`?

File: FormaleSystemeInLean/FintypeSetDecidableEq.lean [hunk 5]
```diff
@@ -0,0 +1,88 @@
...
+    apply Set.ext
+    intro x
+    have x_mem_elems := T.complete x
+    apply h x x_mem_elems
+
+/--
+If α is a finite type and membership is decidable for every Set α then two sets X and Y are equal iff their corresponding lists are equal.
+We need to assume (DecidablePred S) for every (S : Set α) in order to obtain a list with the same elements as S by filtering Fintype.elems for members of S.
+-/
+theorem set_eq_iff_filter_eq (α : Type u) (h : ∀ (S : Set α), DecidablePred S) (T : Fintype α) (X Y : Set α) : X = Y ↔ T.elems.filter ( · ∈ X) = T.elems.filter ( · ∈ Y) := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/FintypeSetDecidableEq.lean]: Same as above.

File: FormaleSystemeInLean/FintypeSetDecidableEq.lean [hunk 6]
```diff
@@ -0,0 +1,88 @@
...
+    . intro x_mem
+      have x_mem_filter : x ∈ T.elems.filter ( · ∈ Y ) := by
+        simp only [List.mem_filter, decide_eq_true_eq]
+        constructor
+        . apply T.complete x
+        . exact x_mem
+      rw [← eq] at x_mem_filter
+      grind
+
+instance {α : Type u} [T : Fintype α] [DecidableEq α] [h : ∀ (S : Set α), DecidablePred S] : DecidableEq (Set α) := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/FintypeSetDecidableEq.lean]: Where is this required? I find the requirement `∀ (S : Set α), DecidablePred S` a bit too strong and wonder if we really need `DecidableEq (Set α)` anywhere.

File: FormaleSystemeInLean/Lecture1.lean [hunk 7]
```diff
@@ -0,0 +1,773 @@
+import FormaleSystemeInLean.List
+import FormaleSystemeInLean.Powertype
+
+set_option linter.unusedSectionVars false
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture1.lean]: I would like to re-enable this lint. Maybe the file can be restructured accordingly.

File: FormaleSystemeInLean/Lecture3.lean [hunk 8]
```diff
@@ -0,0 +1,227 @@
+import FormaleSystemeInLean.Lecture1
+
+set_option linter.unusedSectionVars false
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture3.lean]: Again, this should be removed.

File: FormaleSystemeInLean/Lecture4.lean [hunk 9]
```diff
@@ -0,0 +1,299 @@
+import FormaleSystemeInLean.Lecture3
+
+set_option linter.unusedSectionVars false
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture4.lean]: Again, this should be removed.

File: FormaleSystemeInLean/Lecture4.lean [hunk 10]
```diff
@@ -0,0 +1,299 @@
...
+Every NFA can be turned into a total DFA using the powerset construction.
+Since we defined the states Q as some type with a Fintype instance, computing the "powerset" of Q is a bit tricky.
+A Fintype is simply a type with finitely many elements. This can be expressed by requiring the existence of a list with all elements of Q.
+The Powertype of Q is the list of all possible subsets of this list. We use subsets instead of lists because the powertype needs to be finite.
+If you are interested in the details have a look at Powertype.lean. It is not required to understand the definitions and proofs concerning Powertype
+to understand the section toDFA.
+-/
+
+/-- A function turning an NFA into a total DFA. -/
+def NFA.to_TotalDFA (M : NFA Q Sigma) [DecidableEq Q] [DecidableEq (Set Q)] : TotalDFA (Powertype Q) Sigma where
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture4.lean]: I curious about the `[DecidableEq (Set Q)]` again. I guess this was necessary for the `Fintype.elems.filter` call? Would `[DecidableEq (Powertype Q)]` also work?

File: FormaleSystemeInLean/List.lean [hunk 11]
```diff
@@ -0,0 +1,113 @@
...
+      cases k_eq : k with
+      | nil =>
+        simp only
+      | cons hd tl =>
+        simp
+        rcases h with ⟨f, g, x⟩
+        by_cases hb : hd = b
+        . sorry
+        .
+          sorry
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/List.lean]: Can we get rid of the `sorry`s or remove the theorems?

File: FormaleSystemeInLean/Powertype.lean [hunk 12]
```diff
@@ -0,0 +1,330 @@
+import FormaleSystemeInLean.Set
+
+set_option linter.unusedSectionVars false
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Powertype.lean]: Again, leave this enabled.

**Review by monsterkrampe — CHANGES_REQUESTED** [review]
Found a few things. I could also take care of them if you are busy with other stuff :)

File: FormaleSystemeInLean/Finset.lean [hunk 13]
```diff
@@ -0,0 +1,312 @@
...
+    have finset_eq := Quotient.exact eq
+    simp only [HasEquiv.Equiv, Setoid.r, Finset.eq] at finset_eq
+    grind
+  . intro mem_iff
+    apply Quotient.sound
+    simp only [HasEquiv.Equiv, Setoid.r, Finset.eq]
+    intro a
+    rw [mem_list_iff_mem_mk l1, mem_list_iff_mem_mk l2]
+    specialize mem_iff a
+    exact mem_iff
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Finset.lean]: I only realized recently that `ext_iff` theorems can be derived from single direction `ext` lemmas in the following way:

```lean
@[ext]
theorem ext (X Y : Finset α) : (∀ a, a ∈ X ↔ a ∈ Y) -> X = Y := by ...
```

In other words, the `@[ext]` annotation will automatically create an appropriate `exi_iff` theorem under the hood and register it for the `ext` tactic as well.  
Does this work here?

File: FormaleSystemeInLean/Finset.lean [hunk 14]
```diff
@@ -0,0 +1,312 @@
...
+  beq X Y := decide (X = Y)
+
+instance [DecidableEq α] : LawfulBEq (Finset α) where
+  rfl := by
+    intro X
+    simp only [BEq.rfl]
+  eq_of_beq := by
+    intro X Y beq
+    simp only [BEq.beq, decide_eq_true_eq] at beq
+    exact beq
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Finset.lean]: I don't see why this is required. I think both `BEq` and `LawfulBEq` are always automatically derived from `DecidableEq`.

File: FormaleSystemeInLean/Lecture1.lean [hunk 15]
```diff
@@ -0,0 +1,774 @@
...
+variable [DecidableEq Sigma]
+
+/--
+Using the two previous results first_power and add_exp, we can show that when writing the nth power of a language L
+as the concatenation of L with L^(-1) the order does not matter.
+-/
+theorem pow_as_concat_comm (L : Language Sigma) (n : Nat) : L * L^(n-1) = (L^(n-1)) * L := by
+  rw (occs := [1, 4]) [← first_power L]
+  rw [add_exp L 1 (n-1)]
+  rw [add_exp L (n-1) 1, Nat.add_comm]
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture1.lean]: It looks like `DecidableEq Sigma` is not required for all of the below theorems, for example the first one. But maybe I'm wrong 😅

File: FormaleSystemeInLean/Lecture4.lean [hunk 16]
```diff
@@ -0,0 +1,393 @@
...
+          . exact q_mem_f
+          . exact q_mem_start
+        rw [contra] at this
+        simp [EmptyCollection.emptyCollection, Membership.mem] at this
+
+end toDFA
+
+section toDFA_Finset
+
+def powerset_δ (M : NFA Q Sigma) [DecidableEq Q] [DecidableEq (Powertype' Q)] : Powertype' Q -> Sigma -> Powertype' Q :=
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture4.lean]: I think `[DecidableEq (Powertype' Q)]` should not be required here (as it can be derived).

This also applies below in a couple of places.

File: FormaleSystemeInLean/Lecture4.lean [hunk 17]
```diff
@@ -0,0 +1,393 @@
...
+  | cons a v ih =>
+    simp only [NFA.δ_word]
+    have aux := ih (List.flatMap (fun x => M.δ x a) R)
+    simp only [TotalDFA.δ_word]
+    have aux2 := mem_powerset_δ_iff M a R q
+    rw [δ_NFA_eq_δ_TotalDFA']
+    simp only [NFA.δ_word]
+    grind
+
+  theorem NFA_totalDFA_lang_eq' (M : NFA Q Sigma) [DecidableEq Q] [DecidableEq (Powertype' Q)] [DecidableEq (Set Q)] : M.to_TotalDFA'.Language = M.Language := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture4.lean]: Additionally to the above comment, hopefully we can drop `[DecidableEq (Set Q)]` now(?)

**Review by monsterkrampe — CHANGES_REQUESTED** [review]
The `Finset` approach looks good I think, thanks for implementing the changes :)
I have a couple more comments.

File: FormaleSystemeInLean/Finset.lean [hunk 18]
```diff
@@ -0,0 +1,295 @@
...
+  constructor
+  . intro x_mem; unfold Finset.toSet; simp only [Membership.mem]; exact x_mem
+  . intro x_mem; unfold Finset.toSet at x_mem; simp only [Membership.mem] at x_mem; exact x_mem
+
+theorem Quotient.unlift₂.{uA, uB, uC} {α : Sort uA} {β : Sort uB} {φ : Sort uC} {s₁ : Setoid α} {s₂ : Setoid β} (f : α → β → φ)
+  (c : ∀ (a₁ : α) (b₁ : β) (a₂ : α) (b₂ : β), a₁ ≈ a₂ → b₁ ≈ b₂ → f a₁ b₁ = f a₂ b₂) (a : α) (b : β) :
+  Quotient.lift₂ f c (Quotient.mk s₁ a) (Quotient.mk s₂ b) = f a b := rfl
+
+theorem Finset.inter_eq [DecidableEq α] (l k : Finset' α) : mk l ∩ mk k = mk (l.filter (fun x => decide (x ∈ k))) := by
+  rfl --- ich heule TT
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Finset.lean]: This comment could be removed but we can also keep it :D

File: FormaleSystemeInLean/Lecture1.lean [hunk 19]
```diff
@@ -0,0 +1,772 @@
...
+        constructor
+        . unfold Language.pow
+          simp [Membership.mem]
+        . symm
+          apply epsilon_concat
+
+theorem mul_eq_append (u v : Word Sigma) : u * v = u++v := by rfl
+
+/-- Product rule for exponents: when concatenating powers of a language we can add the exponents as we do when multiplying numbers. -/
+theorem add_exp [BEq Sigma] (L : Language Sigma) (m n : Nat) : (L^n) * L^m = L^(n+m) := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/Lecture1.lean]: Looks like `BEq` is not required here. (I just tested that.)
This also makes the `BEq` requirements below obsolete.

File: FormaleSystemeInLean/List.lean [hunk 20]
```diff
@@ -0,0 +1,154 @@
...
+          exact b_mem
+        grind
+      . have a_mem_l' : a ∈ l' := by
+          rw [mem_cons] at a_mem
+          simp only [a_eq, false_or] at a_mem
+          exact a_mem
+        rw [mem_removeDups] at a_mem_l'
+        grind
+
+theorem List.removeDups_nodup [DecidableEq α] (l : List α) : l.removeDups.Nodup = True := by
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/List.lean]: Shouldn't it suffice to write `l.removeDups.Nodup` instead of `l.removeDups.Nodup = True`?

File: FormaleSystemeInLean/List.lean [hunk 21]
```diff
@@ -0,0 +1,154 @@
...
+      . intro a a_mem
+        rw [← mem_removeDups] at a_mem
+        grind
+      . unfold removeDups
+        exact aux
+
+theorem List.infix_removeDups [DecidableEq α] (l k : List α) : k.IsInfix l.removeDups → k = k.removeDups := by
+  intro inf
+
+  sorry
```
Comment (monsterkrampe) [inline FormaleSystemeInLean/List.lean]: What about this sorry?

File: FormaleSystemeInLean.lean [hunk 22]
```diff
@@ -1,12 +1,9 @@
...
-
-import FormaleSystemeInLean.Chomsky.ContextFree.ContextFreeGrammar
-import FormaleSystemeInLean.Chomsky.ContextFree.ContextFreeDerivation
-import FormaleSystemeInLean.Chomsky.ContextFree.Theorems
-
-import FormaleSystemeInLean.Computability.Loop
-
+import FormaleSystemeInLean.Exercise1
+import FormaleSystemeInLean.Exercise2
+import FormaleSystemeInLean.Fintype
```
Comment (monsterkrampe) [inline FormaleSystemeInLean.lean:3]: Maybe `Finset` should also be imported here.

**Review by monsterkrampe — CHANGES_REQUESTED** [review]

**Review by monsterkrampe — APPROVED** [review]
Thank you very much, I think this looks good now :)
